US09278983B2
A mixture of N-methyl-(3-nitro-5-trifluoromethyl-pyridin-2-yl)-amine (6.93 g), 5% of palladium-carbon (0.69 g), and ethanol was stirred under about 1 atm of hydrogen at room temperature for 10 hours. The reaction mixture was filtered through Celite®, and then the filtrate was concentrated under reduced pressure to give 5.02 g of N2-methyl-5-trifluoromethylpyridin-2,3-diamine (Compound (1F)-1).

reactant | N-methyl-(3-nitro-5-trifluoromethyl-pyridin-2-yl)-amine | 6.93 g | CNC1=NC=C(C=C1[N+](=O)[O-])C(F)(F)F | C7H6F3N3O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 0.69 g | [C].[Pd]
solvent | ethanol | C(C)O | C2H6O
product | N2-methyl-5-trifluoromethylpyridin-2,3-diamine | 5.02 g | CNC1=NC=C(C=C1N)C(F)(F)F | C7H8F3N3
